US06455550B1
A solution of 1-benzylcyclopentane carboxylic acid ethyl ester (0.40 g, 1.7 mmol) in 10 mL of THF and 5 mL of methanol was treated with a solution of 200 mg of lithium hydroxide hydrate in 5 mL of water and the mixture was stirred for 3 days at room temperature and at 40° C. for 3 days. The mixture was diluted with water, washed with ether and acidified with excess 6 N HCl. The aqueous layer was extracted with ether and the combined extracts were washed with water and brine and were dried (MgSO4). Evaporation gave 0.34 g (96%) of 1-benzylcyclopentane carboxylic acid as a thick yellow oil.

reactant | 1-benzylcyclopentane carboxylic acid ethyl ester | 1.7 mmol, 0.40 g | C(C)OC(=O)C1(CCCC1)CC1=CC=CC=C1 | C15H20O2
reactant | lithium hydroxide hydrate | 200 mg | O.[OH-].[Li+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 1-benzylcyclopentane carboxylic acid | 0.34 g, 96% | C(C1=CC=CC=C1)C1(CCCC1)C(=O)O | C13H16O2
